US08461159B2
To a solution of 4-(3-hydroxy-benzyl)-piperazine-1-carboxylic acid tert-butyl ester (300 mg, 1.0 mmol) in DMSO (5.0 mL) were added Cs2CO3 (660 mg, 2.0 mmol) and 2-chloro-3-pyridinecarbonitrile (172 mg, 1.2 mmol). The mixture was heated at 60° C. for 90 min. The reaction mixture was cooled to rt, poured into water, and extracted with EtOAc (3×). The organic layer was separated and dried (Na2SO4). The crude residue was purified (FCC) to give 4-[3-(3-cyano-pyridin-2-yloxy)-benzyl]-piperazine-1-carboxylic acid tert-butyl ester (229 mg, 56%).

reactant | 4-(3-hydroxy-benzyl)-piperazine-1-carboxylic acid tert-butyl ester | 1.0 mmol, 300 mg | C(C)(C)(C)OC(=O)N1CCN(CC1)CC1=CC(=CC=C1)O | C16H24N2O3
reactant | Cs2CO3 | 2.0 mmol, 660 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | 2-chloro-3-pyridinecarbonitrile | 1.2 mmol, 172 mg | ClC1=NC=CC=C1C#N | C6H3ClN2
reactant | water | O | H2O
solvent | DMSO | 5.0 mL | CS(=O)C | C2H6OS
product | 4-[3-(3-cyano-pyridin-2-yloxy)-benzyl]-piperazine-1-carboxylic acid tert-butyl ester | 229 mg, 56% | C(C)(C)(C)OC(=O)N1CCN(CC1)CC1=CC(=CC=C1)OC1=NC=CC=C1C#N | C22H26N4O3
